US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-methyl-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one
Into a 100-mL 3-necked round-bottom flask, was placed a solution of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-methyl-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid (100 mg, 0.25 mmol, 1.00 equiv) in dichloromethane (5 mL), imidazolidin-4-one hydrochloride (27.05 mg, 0.22 mmol, 1.00 equiv), HOBt (32.92 mg, 0.24 mmol, 1.10 equiv), triethylamine (33.59 mg, 0.33 mmol, 2.10 equiv), EDCI (63.85 mg, 0.33 mmol, 1.50 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 20 mL of water. The resulting solution was extracted with 3×10 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5-1:1). This resulted in 80 mg (68%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-methyl-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one as a white solid.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-methyl-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoic acid | 0.25 mmol, 100 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C | C19H15ClF3NO3
reactant | imidazolidin-4-one hydrochloride | 0.22 mmol, 27.05 mg, 1.00 equiv | Cl.N1CNC(C1)=O
reactant | HOBt | 0.24 mmol, 32.92 mg, 1.10 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.33 mmol, 33.59 mg, 2.10 equiv | C(C)N(CC)CC | C6H15N
reactant | EDCI | 0.33 mmol, 63.85 mg, 1.50 equiv | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-methyl-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C)C | C22H19ClF3N3O3
